US06855722B2
d) 7-(2-{1-[2-Ethoxycarbonyl-1-(2-methoxy-phenyl)-vinyl]-1H-indol-5-yloxy}-ethyl)-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester
The title compound was synthesized from (2-methoxy-phenyl)-propynoic acid ethyl ester and 7-[2-(1H-Indol-5-yloxy)-ethyl]-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester using the procedure described in Example 16, step (d1), in a 80% yield as an E/Z isomeric mixture. 1H NMR (CDCl3) [E/Z mixture] δ 7.45 (m, 1H), 7.28-6.95 (m, 4H), 6.85-6.60 (m, 4H), 6.49 (m, 2H), 6.25 (s, 1H), 4.39 (m, 2H), 4.09 (q, 2H, J=7.2 Hz), 3.68 (s, 2H), 3.58 (s, 1H), 3.80 (m, 2H), 3.20 (m, 2H), 2.70 (m, 2H), 1.89 (m, 2H), 1.50 (s, 9H), 1.25 (t, 3H, J=6.8 Hz). Mass Spectrum (LCMS, ESI) calculated for C30H32N3O4 498.2 (M-Boc+H); found 498.4.

reactant | (2-methoxy-phenyl)-propynoic acid ethyl ester | C(C)OC(C#CC1=C(C=CC=C1)OC)=O | C12H12O3
reactant | 7-[2-(1H-Indol-5-yloxy)-ethyl]-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(N=C12)CCOC=1C=C2C=CNC2=CC1 | C23H27N3O3
product | 7-(2-{1-[2-Ethoxycarbonyl-1-(2-methoxy-phenyl)-vinyl]-1H-indol-5-yloxy}-ethyl)-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester | 80% yield | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(N=C12)CCOC=1C=C2C=CN(C2=CC1)C(=CC(=O)OCC)C1=C(C=CC=C1)OC | C35H39N3O6
